US08476261B2
To a stirred solution of tert-butyl allylcarbamate (1.95 g, 12.4 mmol) in THF (12 mL), 0.5 mol/L 9-borabicyclo[3.3.1]nonane (29.8 mL, 14.9 mmol) was added under argon atmosphere at room temperature. After stirred at room temperature for 4 h, a solution of 2-bromo-4,6-bistrifluoromethylpyridine (3.65 g, 12.4 mmol) in DMF (12 mL), Pd(OAc)2 (278 mg, 1.24 mmol), DPPF (859 mg, 1.55 mmol) and K2CO3 (2.92 g, 21.1 mmol) were added to the reaction mixture and stirred at room temperature for 7 h. To the reaction mixture, water was added and the crude product was extracted with EtOAc, washed with brine, dried over NaSO4 and the solvent was removed in vacuo. The crude product was purified by column chromatography (Hexane:EtOAc 10:1→2:1) to yield tert-butyl 3-(4,6-bistrifluoromethylpyridin-2-yl)propylcarbamate (3.41 g, 74%) as a colorless solid. 1H NMR (CDCl3, 400 MHz) δ 1.44 (9H, s), 1.96-2.03 (2H, m), 2.98-3.02 (2H, m), 3.20-3.25 (2H, m), 4.71 (1H, brs), 7.59 (1H, s), 7.72 (1H, s). CIMS (+) 373 [M+H]+.

reactant | tert-butyl allylcarbamate | 12.4 mmol, 1.95 g | C(C=C)NC(OC(C)(C)C)=O | C8H15NO2
reactant | 9-borabicyclo[3.3.1]nonane | 14.9 mmol, 0.5 mol/L, 29.8 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 2-bromo-4,6-bistrifluoromethylpyridine | 12.4 mmol, 3.65 g | BrC1=NC(=CC(=C1)C(F)(F)F)C(F)(F)F | C7H2BrF6N
reactant | K2CO3 | 21.1 mmol, 2.92 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 1.24 mmol, 278 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 1.55 mmol, 859 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | water | O | H2O
product | tert-butyl 3-(4,6-bistrifluoromethylpyridin-2-yl)propylcarbamate | 3.41 g, 74% | FC(C1=CC(=NC(=C1)C(F)(F)F)CCCNC(OC(C)(C)C)=O)(F)F | C15H18F6N2O2
